US09024044B2
Step 6. Synthesis of 5-(2-benzyloxycarbonyl-2-ethyl-butyl)thiophene-2-carboxylic acid tert-butyl ester
5-(2-Benzyloxycarbonylbutyl)thiophene-2-carboxylic acid tert-butyl ester (29.5 g, 78.8 mmol) was dissolved in tetrahydrofuran (200 mL), 1.09 M lithium bis(trimethylsilyl)azanide/tetrahydrofuran solution (94 mL, 102 mmol) was added dropwise at −78° C., and the mixture was stirred for 2 hours. To the reaction mixture was added ethyl iodide (12.3 g, 156 mmol) at −78° C., and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. The residue was added to ethyl acetate and 0.5 N-hydrochloric acid solution, the organic layer was extracted, and the aqueous layer was extracted two times with ethyl acetate. The organic layers were collected, washed with sodium thiosulfate solution and brine, and dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound (24.9 g, 61.9 mmol, 78%).

reactant | 5-(2-Benzyloxycarbonylbutyl)thiophene-2-carboxylic acid tert-butyl ester | 78.8 mmol, 29.5 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)CC(CC)C(=O)OCC1=CC=CC=C1 | C21H26O4S
reactant | lithium bis(trimethylsilyl)azanide tetrahydrofuran | 102 mmol, 1.09 M, 94 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].O1CCCC1
reactant | ethyl iodide | 156 mmol, 12.3 g | C(C)I | C2H5I
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-(2-benzyloxycarbonyl-2-ethyl-butyl)thiophene-2-carboxylic acid tert-butyl ester | 61.9 mmol, 24.9 g, 78% | C(C)(C)(C)OC(=O)C=1SC(=CC1)CC(CC)(CC)C(=O)OCC1=CC=CC=C1 | C23H30O4S
